US07119122B2
2-Fluoro-4-methoxy-benzonitrile (0.28 g, 1.8 mmol), 3-hydroxy-2-methoxybenzaldehyde (0.28 g, 1.8 mmol) and cesium carbonate (0.90 g, 2.4 mmol) were heated with stirring in dry DMF (4 mL) at 50° C. for 40 h. The reaction mixture was cooled, poured into 1N sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 1N sodium hydroxide solution (4×), water (4×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 2-(3-formyl-2-methoxy-phenoxy)4-methoxy-benzonitrile (0.38 g, 73%) as a tan oil.

reactant | 2-Fluoro-4-methoxy-benzonitrile | 1.8 mmol, 0.28 g | FC1=C(C#N)C=CC(=C1)OC | C8H6FNO
reactant | 3-hydroxy-2-methoxybenzaldehyde | 1.8 mmol, 0.28 g | OC=1C(=C(C=O)C=CC1)OC | C8H8O3
reactant | cesium carbonate | 2.4 mmol, 0.90 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(3-formyl-2-methoxy-phenoxy)4-methoxy-benzonitrile | 0.38 g, 73% | C(=O)C=1C(=C(OC2=C(C#N)C=CC(=C2)OC)C=CC1)OC | C16H13NO4
